US09284284B2
8-[3-((R)-5-Amino-3-difluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenylamino]-[1,7]naphthyridine-3-carbonitrile
[3-((R)-5-Amino-3-difluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-(3-bromo-[1,7]naphthyridin-8-yl)-amine (150 mg, 0.32 mmol), Zn powder (0.842 mg, 0.013 mmol), Zn(CN)2 (22.7 mg, 0.193 mmol), Zn(OAc)2 (2.36 mg 0.013 mmol), 1,1′-Bis-(diphenylphosphino)-ferrocene (0.54 mg, 0.001 mmol) and Tris(dibenzylideneacetone)-dipalladium (0) (0.29 mg 0.0003 mmol) were dissolved in DMF (4 ml) and water (0.04 ml) and heated under inert conditions to 95° C. for 2 h and then allowed to cool to rt. The reaction was quenched with water (10 ml) and NH3 (25%, 1 ml) and extracted with EtOAc (25 ml). The aq phase was extracted another 3× with EtOAc. The combined organic layer was washed with NaHCO3 solution and brine, treated with MgSO4 and filtered. The filtrated was concentrated and purified by column chromatography (silica gel; hexane/0-15% EtOAc) to give the desired product as a yellow solid.

reactant | [3-((R)-5-Amino-3-difluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-(3-bromo-[1,7]naphthyridin-8-yl)-amine | 0.32 mmol, 150 mg | NC1=N[C@](COC1)(C(F)F)C=1C=C(C=CC1F)NC=1N=CC=C2C=C(C=NC12)Br | C19H15BrF3N5O
reactant | water | 0.04 ml | O | H2O
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | Zn | 0.013 mmol, 0.842 mg | [Zn] | Zn
catalyst | Zn(CN)2 | 0.193 mmol, 22.7 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn(OAc)2 | 0.013 mmol, 2.36 mg | [Zn](OC(=O)C)OC(=O)C
catalyst | 1,1′-Bis-(diphenylphosphino)-ferrocene | 0.001 mmol, 0.54 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Tris(dibenzylideneacetone)-dipalladium (0) | 0.0003 mmol, 0.29 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-[3-((R)-5-Amino-3-difluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenylamino]-[1,7]naphthyridine-3-carbonitrile | NC1=N[C@](COC1)(C(F)F)C=1C=C(C=CC1F)NC=1N=CC=C2C=C(C=NC12)C#N | C20H15F3N6O
